US05990142
1F 2-(Benzyloxymethyl)-6-chromanecarboxylic acid
A solution of 2-(benzyloxymethyl)-6-chromane-carbaldehyde (0.921 g, 3.27 mmol) in acetone (5 ml) was added at 0° C. with Jones reagent, consisting of a mixture of chromium trioxide (0.326 g, 3.27 mmol), water (0.95 ml) and concentrated sulfuric acid (0.27 ml). The mixture was left under stirring at room temperature for 18 h. After that, a mixture of isopropyl alcohol (10 ml) and water (50 ml) was added, extracting with ethyl ether (3×30 ml). The organic phase was dried and the solvents were evaporated off under reduced pressure to obtain a residue which was purified by chromatography through a silica gel column. Eluting with hexane:ethyl acetate, 7:3, 0.580 g of the title compound were obtained (60% yield).

reactant | 2-(benzyloxymethyl)-6-chromane-carbaldehyde | 3.27 mmol, 0.921 g | C(C1=CC=CC=C1)OCC1OC2=CC=C(C=C2CC1)C=O | C18H18O3
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | 0.27 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 3.27 mmol, 0.326 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 50 ml | O | H2O
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | water | 0.95 ml | O | H2O
product | 2-(Benzyloxymethyl)-6-chromanecarboxylic acid | 0.580 g, 60% yield | C(C1=CC=CC=C1)OCC1OC2=CC=C(C=C2CC1)C(=O)O | C18H18O4
